US07659294B2
Step B: 3-Fluoro-4-isobutylbenzoic acid
To a solution of methyl 3-fluoro-4-isobutylbenzoate (243 mg, 1.16 mmol) in 10 mL of EtOH was added sodium hydroxide (2.3 mL, 5.0 N). The mixture was stirred at rt for 1 hr and then concentrated. The residue was partitioned in a mixture of diluted HCl (10 mL) and Et2O (10 mL). The aqueous layer was separated and further extracted with Et2O (2×10 mL). The organic layers were combined, dried over MgSO4, and concentrated to give 212 mg (93%) of the title compound: 1H NMR δ 0.93 (d, J=6.6, 6H), 1.95 (m, 1H), 2.58 (d, J=7.4, 2H), 7.26 (m, 1H), 7.74 (dd, J=1.4, 10.1, 11H), 7.82 (dd, J=1.5, 7.9, 11H), 11.2 (br. s, 1H).

reactant | methyl 3-fluoro-4-isobutylbenzoate | 1.16 mmol, 243 mg | FC=1C=C(C(=O)OC)C=CC1CC(C)C | C12H15FO2
reactant | sodium hydroxide | 5.0 N, 2.3 mL | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-Fluoro-4-isobutylbenzoic acid | 212 mg, 93% | FC=1C=C(C(=O)O)C=CC1CC(C)C | C11H13FO2
